US04956118
Step (A)--Preparation of S-n-octylthioisothiourea hydrochloride [formula (VI)] for Use in Step (B) of the Process
Hydrogen peroxide (30% aqueous, 28.0 g) was added dropwise over 45 minutes to a stirred mixture of n-octanethiol (32.27 g, 0.221 mole), thiourea (20.1 g, 0.264 mole), concentrated hydrochloric acid (35 ml), water (35 ml) and ethanol (500 ml) maintained at 0°-10° C. After the addition was complete the reaction mixture was stirred at room temperature for 2 hours during which time a thick white precipitate formed. The mixture was filtered and the filtrate evaporated giving a solid residue. This was dissolved in ethanol (150 ml), diluted with diethyl ether (800 ml) and allowed to stand overnight at 0° C. Filtration gave white crystals of the product (46.3 g; 82%), melting point=77°-82° C.

reactant | Hydrogen peroxide | 28.0 g | OO | H2O2
reactant | n-octanethiol | 0.221 mole, 32.27 g | C(CCCCCCC)S | C8H18S
reactant | thiourea | 0.264 mole, 20.1 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 35 ml | O | H2O
product | S-n-octylthioisothiourea hydrochloride | Cl.C(CCCCCCC)SSC(N)=N | InChI=1S/C9H20N2S2.ClH/c1-2-3-4-5-6-7-8-12-13-9(10)11;/h2-8H2,1H3,(H3,10,11);1H
